US06365585B1
N-(9-formyl-4-oxo-1-phenyl-3,4,6,7-tetrahydro-[1,4]diazepino[6,7,1-hi]indol-3-yl)-isonicotinamide
0.100 g (0.24 mmol) of N-(9-hydroxymethyl-4-oxo-1-phenyl-3,4,6,7-tetrahydro-[1,4]diazepino[6,7,1-hi]indol-3-yl)-isonicotinamide and 20 ml of CH2Cl2 are introduced successively into a 50-ml one-necked flask. The mixture is stirred and 0.200 g (0.93 mmol) of pyridinium chlorochromate are added. The suspension is stirred for 1 h at 20-25° C. The purification is carried out directly on the reaction mixture by rapid chromatography on a silica column, eluting with CH2Cl2 enriched with MeOH. The residue obtained after removal of the solvent is concreted in a few millilitres of ether. 0.022 g (0.054 mmol) of a beige powder is obtained.—TLC (CH2Cl2/MeOH 95/5 v/v): Rf=0.50.

reactant | N-(9-hydroxymethyl-4-oxo-1-phenyl-3,4,6,7-tetrahydro-[1,4]diazepino[6,7,1-hi]indol-3-yl)-isonicotinamide | 0.24 mmol, 0.100 g | OCC=1N2C=3C(=CCCC3C1)C(N(C=C2C2=CC=CC=C2)NC(C2=CC=NC=C2)=O)=O | C24H20N4O3
reactant | CH2Cl2 | 20 ml | C(Cl)Cl | CH2Cl2
reactant | pyridinium chlorochromate | 0.93 mmol, 0.200 g | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
solvent | CH2Cl2 MeOH | C(Cl)Cl.CO
product | N-(9-formyl-4-oxo-1-phenyl-3,4,6,7-tetrahydro-[1,4]diazepino[6,7,1-hi]indol-3-yl)-isonicotinamide | C(=O)C=1N2C=3C(=CCCC3C1)C(N(C=C2C2=CC=CC=C2)NC(C2=CC=NC=C2)=O)=O | C24H18N4O3
